US09334245B2
B. (2S,4R)-5-Biphenyl-4-yl-2-hydroxymethyl-2-methyl-4-[(3H-[1,2,3]triazole-4-carbonyl)-amino]-pentanoic acid ethyl ester (R4=H; R7=—CH2CH3)
1,2,3-Triazole-4-carboxylic acid (11.5 mg, 102 μmol, 1.2 eq.) and HATU (38.6 mg, 102 μmol, 1.2 eq.) were dissolved in DMF (0.9 mL) and stirred at room temperature for 5 minutes. DIPEA (29.5 μL, 2.0 eq.) was added to yield the activated acid. (2S,4R)-5-Biphenyl-4-yl-4-t-butoxycarbonylamino-2-hydroxymethyl-2-methyl-pentanoic acid (35 mg, 85 μmol, 1.0 eq.) was dissolved in EtOH and 4 M of HCl in dioxane (423 μL) was added. The mixture was heated to 60° C. overnight, then concentrated to dryness and purified by reverse phase chromatography (5-60% MeCN in water over 18 minutes. The clean fractions were combined and dried under vacuum to dryness, then combined with the activated acid. After 20 minutes, the reaction was quenched with water and the product was dried under vacuum and purified by preparative HPLC to yield the title compound (4 mg, >95% purity. MS m/z [M+H]+ calc'd for C24H28N4O4, 437.21. found 437.3.

reactant | 1,2,3-Triazole-4-carboxylic acid | 102 μmol, 11.5 mg, 1.2 eq. | N1N=NC(=C1)C(=O)O | C3H3N3O2
reactant | HATU | 102 μmol, 38.6 mg, 1.2 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 29.5 μL, 2.0 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | (2S,4R)-5-Biphenyl-4-yl-4-t-butoxycarbonylamino-2-hydroxymethyl-2-methyl-pentanoic acid | 85 μmol, 35 mg, 1.0 eq. | C1(=CC=C(C=C1)C[C@H](C[C@@](C(=O)O)(C)CO)NC(=O)OC(C)(C)C)C1=CC=CC=C1 | C24H31NO5
reactant | HCl | 4 M | Cl | ClH
solvent | DMF | 0.9 mL | CN(C)C=O | C3H7NO
solvent | EtOH | CCO | C2H6O
solvent | dioxane | 423 μL | O1CCOCC1 | C4H8O2
product | (2S,4R)-5-Biphenyl-4-yl-2-hydroxymethyl-2-methyl-4-[(3H-[1,2,3]triazole-4-carbonyl)-amino]-pentanoic acid ethyl ester | C(C)OC([C@](C[C@@H](CC1=CC=C(C=C1)C1=CC=CC=C1)NC(=O)C=1NN=NC1)(C)CO)=O | C24H28N4O4
